US06184180B2
Synthesis of hexadecyltriphenylphosphonium bromide
In a 100 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 8.6 g of triphenylphosphine and 10 g of n-hexadecyl bromide, and under nitrogen atmosphere, the mixture was heated at 180° C. for 10 hours on an oil bath. After cooling the reaction mixture to room temperature, precipitated solid material was pulverized in acetone and collected by filtration under reduced pressure. The resulting crystals were washed with acetone to obtain 8.5 g of the title compound. Melting point: 128° C.

reactant | triphenylphosphine | 8.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-hexadecyl bromide | 10 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
product | hexadecyltriphenylphosphonium bromide | 8.5 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C34H48P.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-24-31-35(32-25-18-15-19-26-32,33-27-20-16-21-28-33)34-29-22-17-23-30-34;/h15-23,25-30H,2-14,24,31H2,1H3;1H/q+1;/p-1
